### PR TITLE
minor fixes and additions to `exp.v`

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

These fixes and lemmas are used in a proof of Hoelder's inequality to be PRed soon.

@hoheinzollern 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

##### Compatibility with MathComp 2.0

- [x] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: theories/exp.v [hunk 1]
```diff
@@ -604,20 +610,24 @@ Proof. by rewrite /power_pos; case: ifPn => // _; exact: expR_ge0. Qed.
...
-move=> a0; rewrite /power_pos; case: ifPn => [/eqP->|a0'].
-  by rewrite oner_eq0.
-by rewrite mul1r lnK// posrE lt_neqAle eq_sym a0'.
+move=> x0 a0; rewrite /power_pos; case: ifPn => [_|a_neq0 _].
+  by rewrite gt_eqF//= ltxx.
+by rewrite lt_neqAle a0 andbT eq_sym.
 Qed.
 
-Lemma power_posr0 a : a `^ 0 = 1.
+Lemma power_pos0 x : 0 `^ x = (x == 0)%:R.
```
Comment (zstone1) [inline theories/exp.v:620]: Everything about this statement is uncomfortable. The fact that we have a theorem that explicitly relies on `0 ^ 0` behavior is awkward. And this uses the most surprising coercion, `nat_of_bool`. I see that this lemma gets used a bunch. But would `x != 0 -> 0^x = 0` work in its place?

**Review by zstone1 — CHANGES_REQUESTED** [review]
Just one confusing lemma statement. If adding a `x!=0` condition breaks too many things, at least making the coercion explicit will make it more readable for me.

File: theories/exp.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/exp.v]: Indeed, it looks a bit too ssreflectish. Changing to the format you propose reduces the size of scripts a bit (see the last commit) so if moreover the statement is more readable this is a goof change.

**Review by zstone1 — APPROVED** [review]
